US07452886B2
To a solution of 4.2 g of 2-chloro-N4-(2,2-dimethyl-propyl)-pyrimidine-4,5-diamine in 40 ml of DMA was added 1.6 ml of POCl3. The solution was stirred at 100° C. for 2 hours, cooled and extracted with ethyl acetate and saturated NaHCO3 solution. The organic phases were dried over sodium sulfate and evaporated to dryness yielding 2-chloro-9-(2,2-dimethyl-propyl)-8-methyl-9H-purine as a brown oil.

reactant | 2-chloro-N4-(2,2-dimethyl-propyl)-pyrimidine-4,5-diamine | 4.2 g | ClC1=NC=C(C(=N1)NCC(C)(C)C)N | C9H15ClN4
reactant | POCl3 | 1.6 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMA | 40 ml | CC(=O)N(C)C | C4H9NO
product | 2-chloro-9-(2,2-dimethyl-propyl)-8-methyl-9H-purine | ClC1=NC=C2N=C(N(C2=N1)CC(C)(C)C)C | C11H15ClN4
